US07781431B2
Step 3: 6-cyclohexyl-3-formyl-4-(methoxymethyl)-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid
A solution (0.2 M) of 6-cyclohexyl-4-(methoxymethyl)-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid in THF was added dropwise to a solution (0.6 M) of sec-BuLi (3 eq.) and TMEDA (3 eq.) in THF at −78° C. After 5 min at −78° C., the resulting solution was treated with DMF (10 eq.) then was allowed to warm up at −10° C. The mixture was quenched with water and poured into aqueous HCl (0.1 N) and extracted with AcOEt. The combined organic phase was dried and concentrated to give the title compound (85%) as a solid, that was used as such.

reactant | 6-cyclohexyl-4-(methoxymethyl)-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid | 0.2 M | C1(CCCCC1)C=1C2=C(N(C1C1=CC=CC=C1)COC)C=C(S2)C(=O)O | C21H23NO3S
reactant | sec-BuLi | 0.6 M, 3 eq. | [Li]C(C)CC
reactant | TMEDA | 3 eq. | CN(C)CCN(C)C | C6H16N2
reactant | DMF | 10 eq. | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 6-cyclohexyl-3-formyl-4-(methoxymethyl)-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid | 85% | C1(CCCCC1)C=1C2=C(N(C1C1=CC=CC=C1)COC)C(=C(S2)C(=O)O)C=O | C22H23NO4S
